US05576323
4-(4-(6-Phenylhexyl)phenoxy)glutamic Acid (16)
A mixture of lithium hydroxide (0.712 g) in water (9.3 ml) and tetrahydrofuran (29 ml) was treated with methyl 3-[4-(6-hexylphenyl)phenoxy]-2-pyrrolidone-5-carboxylate (3.91 g), and heated to 58° C. After about 3.8 hours, the reaction mixture was allowed to cool to room temperature. The reaction mixture was then treated with 5N HCl (5.94 ml). The resulting light suspension was sonicated then stirred at room temperature for fifteen minutes . Insolubles were collected by filtration, washed with 1:1 tetrahydrofuran:water (10 ml), then tetrahydrofuran (10 ml) and finally water (10 ml). The title compound crystallized out from the filtrate and was collected by filtration. This material was dried in vacuo to give 1.077 g of the title compound.

reactant | lithium hydroxide | 0.712 g | [OH-].[Li+]
reactant | methyl 3-[4-(6-hexylphenyl)phenoxy]-2-pyrrolidone-5-carboxylate | 3.91 g | C(CCCCC)C1=CC=CC=C1C1=CC=C(OC2C(NC(C2)C(=O)OC)=O)C=C1 | C24H29NO4
reactant | HCl | 5N, 5.94 ml | Cl | ClH
solvent | water | 9.3 ml | O | H2O
solvent | tetrahydrofuran | 29 ml | O1CCCC1 | C4H8O
product | 4-(4-(6-Phenylhexyl)phenoxy)glutamic Acid | 1.077 g | C1(=CC=CC=C1)CCCCCCC1=CC=C(OC(C[C@H](N)C(=O)O)C(=O)O)C=C1 | C23H29NO5
